US05492905
Example 1. 3-Amino-8-chloro-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
8-Chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.4 g) was treated with 80 mL of liquid anhydrous ammonia chilled to -78 ° C. The mixture was sealed in a pressure vessel and warmed to 26° C. for 22.5 hours. The excess ammonia was evaporated to give a solid. The solid was recrystallized from 5 mL hot dimethylformamide and water; crystallization was initiated by cooling the solution in an ice bath. The solid was filtered, washed (water) and vacuum dried (100 ° C., 15 Pa) to give the title compound (0.274 g); mp 44.5-346.4 ° C. (dec); NMR: 11.47 (s,1), 8.10 (d,1, J=8.7), 7.53 (d,1, J=2.0), 7.27 (dd,1, 3=8.7, 2.0), 7.1 (broad s,2, NH2), 6.23 (s,1). Analysis for C10H7ClN2O2 : Calculated: C, 53.95; H, 3.17 ; N, 12.58; Found: C, 53.80; H, 3.34; N, 12.89.

reactant | 8-Chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.4 g | ClC=1C=CC2=C(NC(C(=CC2=O)OC)=O)C1 | C11H8ClNO3
reactant | ammonia | N | H3N
product | 3-Amino-8-chloro-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.274 g | NC1=CC(C2=C(NC1=O)C=C(C=C2)Cl)=O | C10H7ClN2O2
